US05365691
2 g (7.46 mmol) of 3-methyl-heptadecan-2-one (Compound No. 3 of Table 1) are introduced into 10 ml of diethylene glycol, and the mixture is treated with 1.11 g (22.4 mmol) of hydrazine hydrate and 1.2 g (29.85 mmol) of sodium hydroxide. The mixture is stirred for twenty hours at 200° C. When the mixture has cooled to room temperature, it is treated with 100 ml of water, acidified with hydrochloric acid, with cooling, and extracted three times using cyclohexane. The combined organic extracts are washed twice with a little water, dried over sodium sulphate and concentrated. Separation by column chromatography using cyclohexane as the eluent gave 1.0 g (53% of theory) of 3-methylheptadecane.

reactant | 3-methyl-heptadecan-2-one | 7.46 mmol, 2 g | CC(C(C)=O)CCCCCCCCCCCCCC | C18H36O
reactant | hydrazine hydrate | 22.4 mmol, 1.11 g | O.NN
reactant | sodium hydroxide | 29.85 mmol, 1.2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
product | 3-methylheptadecane | 1.0 g, 53% | CC(CC)CCCCCCCCCCCCCC | C18H38
